US05648502
2-Trimethylsilyl-3-chlorothiophene
To 3-chlorothiophene (5.0 g, 42.16 mmol), dissolved in 50 mL of tetrahydrofuran stirring at -72° C. (acetone/dry ice bath), was added 16.8 ml of 2.5M hexane solution of n-butyllithium over a 15 minute period. The reaction temperature was maintained below -70° C. during the addition. Soon after complete addition of the n-butyllithium a white precipitate formed. After 40 minutes of stirring below -70° C., 5.88 mL of chlorotrimethylsilane was slowly added over a 5 minute period. After addition the solution momentarily became clear before turning cloudy again by the formation of lithium chloride by-product. After 10 minutes the reaction solution was warmed to 0° C. At 0° C. 5 mL of water followed by 25 mL of brine was added to quench the reaction. The aqueous solution was then extracted with ethyl acetate (2×30 mL). The organic extract was dried (Na2SO4), filtered and evaporated to 8.0 g of title compound as a clear oil.

reactant | 3-chlorothiophene | 42.16 mmol, 5.0 g | ClC1=CSC=C1 | C4H3ClS
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | n-butyllithium | C(CCC)[Li]
reactant | chlorotrimethylsilane | 5.88 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | lithium chloride | [Cl-].[Li+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | water | 5 mL | O | H2O
solvent | hexane | 2.5M, 16.8 ml | CCCCCC | C6H14
product | 2-Trimethylsilyl-3-chlorothiophene | C[Si](C=1SC=CC1Cl)(C)C | C7H11ClSSi
